US09376422B2
Compound 393: 3-[Ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl]-5-(trifluoromethyl)benzamide
To a stirred solution of 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid (crude material, 680 mg, 1.97 mmol) and 3-(aminomethyl)-6-methyl-4-propyl-1,2-dihydropyridin-2-one HCl salt (642 mg, 2.96 mmol) in DMSO (7 mL) was added PyBOP (1.85 g, 3.55 mmol) and hunig base (764 mg, 5.91 mmol). The reaction mixture was stirred at 23° C. for 20 hours. The reaction mixture was quenched with water and resulting precipitate was collected. The solid was purified by silica gel column chromatography (NH—SiO2 ethylacetate/MeOH=20/1) to give the titled compound as a white solid (224 mg, 22% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.31 (s, 1H), 7.26 (s, 1H), 7.16 (m, 1H), 5.94 (s, 1H), 4.55 (d, J=5.9 Hz, 2H), 3.08 (q, J=7.0 Hz, 2H), 2.82 (m, 2H), 2.66-2.73 (m, 3H), 2.33 (s, 3H), 2.24 (s×2, 6H), 1.79-1.98 (m, 2H), 1.67-1.75 (m, 4H), 1.59-1.66 (m, 2H), 1.02 (t, J=7.2 Hz, 3H), 0.84 (t, J=7.0 Hz, 3H); MS (ES) [M−H] 505.2; HPLC 98.1% purity.

reactant | 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid | 1.97 mmol, 680 mg | C(C)N(C=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C17H23F3N2O2
reactant | 3-(aminomethyl)-6-methyl-4-propyl-1,2-dihydropyridin-2-one HCl salt | 2.96 mmol, 642 mg | Cl.NCC=1C(NC(=CC1CCC)C)=O
reactant | PyBOP | 3.55 mmol, 1.85 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hunig base | 5.91 mmol, 764 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | 3-[Ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl]-5-(trifluoromethyl)benzamide | 224 mg, 22% yield | C(C)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2CCC)C)=O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C27H37F3N4O2
